US07872020B2
Step 1: Preparation of 6-cyano-4-methyl-quinoline hydrochloride
Add 95% ethanol (EtOH) (270 L, 9 vol.), 4-aminobenzonitrile (30.0 kg, 1 equiv) and 2,3,5,6-tetrachloro-2,5-cyclohexadiene-1,4-dione, (66.81 kg 1.07 equiv) to a 200 gallon reaction vessel equipped with nitrogen purge, condenser, thermocouple, and overhead agitation. Stir for 2-5 min, then add concentrated hydrochloric acid (HCl) (62.56 L, 3.0 equiv), then heat to 75° C. Dilute methyl vinylketone (33.06 L, 1.5 equiv) in 95% EtOH (30 L, 1 vol.) then add slowly to reaction mixture over 30 min. Monitor for reaction completion by high performance liquid chromatography (HPLC). Add tetrahydrofuran (THF) (11 vol., 330 L), at 75° C., then stir for 1 hour at 60° C. Cool to room temperature and stir for 1 additional hour. Filter on agitated filter/dryer, then rinse with THF (240 L, 8 volumes). Dry overnight under vacuum at 70° C. to give the title compound (42.9 kg, 82.55%).

reactant | 4-aminobenzonitrile | 30.0 kg, 1 equiv | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2,3,5,6-tetrachloro-2,5-cyclohexadiene-1,4-dione | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
reactant | hydrochloric acid | 62.56 L, 3.0 equiv | Cl | ClH
reactant | methyl vinylketone | 33.06 L, 1.5 equiv | CC(=O)C=C | C4H6O
solvent | EtOH | 30 L | CCO | C2H6O
solvent | ethanol | 270 L | C(C)O | C2H6O
solvent | tetrahydrofuran | 330 L | O1CCCC1 | C4H8O
product | 6-cyano-4-methyl-quinoline hydrochloride | 42.9 kg, 82.55% | Cl.C(#N)C=1C=C2C(=CC=NC2=CC1)C | InChI=1S/C11H8N2.ClH/c1-8-4-5-13-11-3-2-9(7-12)6-10(8)11;/h2-6H,1H3;1H
